US06503949B1
Step D: Resin Bound 3-{4-[1-(4-Butoxyphenyl)-3-(4-trifluoromethoxyphenyl)ureidomethyl]-benzoylamino}propionic Acid
200 μmol 4-trifluoromethoxyphenylisocyanate dissolved in 500 μL dichloroethane was added to the above resin bound 3-{4-[(4-butoxyphenylamino)methyl]benzoylamino}propionic acid (50 mg). Shaking the mixture 5 hours at 25° C. followed by filtration and washing of the resin with 2×1 mL dichloromethane, 4×1 mL DMF, 2×1 mL H2O, 3×1 mL THF and 3×1 dichloromethane afforded the resin bound title compound.

reactant | 4-trifluoromethoxyphenylisocyanate | 200 μmol | FC(OC1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO2
reactant | 3-{4-[(4-butoxyphenylamino)methyl]benzoylamino}propionic acid | 50 mg | C(CCC)OC1=CC=C(C=C1)NCC1=CC=C(C(=O)NCCC(=O)O)C=C1 | C21H26N2O4
reactant | dichloroethane | 500 μL | ClC(C)Cl | C2H4Cl2
product | 3-{4-[1-(4-Butoxyphenyl)-3-(4-trifluoromethoxyphenyl)ureidomethyl]-benzoylamino}propionic Acid | C(CCC)OC1=CC=C(C=C1)C(C1=CC=C(C(=O)NCCC(=O)O)C=C1)NC(=O)NC1=CC=C(C=C1)OC(F)(F)F | C29H30F3N3O6
